US06472562B1
b) 3-[2-(2,4-Dichlorophenyl)ethoxy]-4-methoxybenzoic acid
A solution of 3.6 g (9.8 mmol) of 3-[2-(2,4-dichlorophenyl)ethoxy]-4-methoxybenzoic acid ethyl ester in 30 ml of ethanol and 5.4 ml of 2N sodium hydroxide solution was stirred at room temperature for 12 h. The precipitate was filtered off. The resulting solid was stirred with 5 ml of 2N HCl and filtered to give 2.44 g (73%) of the title compound.

reactant | 3-[2-(2,4-dichlorophenyl)ethoxy]-4-methoxybenzoic acid ethyl ester | 9.8 mmol, 3.6 g | C(C)OC(C1=CC(=C(C=C1)OC)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C18H18Cl2O4
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2N, 5.4 ml | [OH-].[Na+]
product | 3-[2-(2,4-Dichlorophenyl)ethoxy]-4-methoxybenzoic acid | 2.44 g, 73% | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)O)C=CC1OC | C16H14Cl2O4
